US04739050
3,4-Dihydro-2-(2-hydroxy-5-methoxyphenyl)-2-methoxy-4-methyl-3-oxo-2H-1,4-benzothiazine (compound No. 6)
A mixture of 2-chloro-3,4-dihydro-2-(2-hydroxy-5-methoxyphenyl)-4-methyl-3-oxo-2H-1,4-benzothiazine (14.0 g, compound No. 3) and methanol (200 ml) is stirred for 2 hours at room temperature, and the separated crystals are collected by filtration to give 11.8 g (85.3%) of the titled compound.

reactant | 2-chloro-3,4-dihydro-2-(2-hydroxy-5-methoxyphenyl)-4-methyl-3-oxo-2H-1,4-benzothiazine | ClC1(SC2=C(N(C1=O)C)C=CC=C2)C2=C(C=CC(=C2)OC)O | C16H14ClNO3S
reactant | methanol | 200 ml | CO | CH4O
product | 3,4-Dihydro-2-(2-hydroxy-5-methoxyphenyl)-2-methoxy-4-methyl-3-oxo-2H-1,4-benzothiazine | 11.8 g, 85.3% | OC1=C(C=C(C=C1)OC)C1(SC2=C(N(C1=O)C)C=CC=C2)OC | C17H17NO4S
